US07335791B1
The same procedure as described in Example 24 was performed but using 2.45 g (10.0 mmol) of 4-bromoisophthalic acid as the substrate and 2.70 g (25.5 mmol) of Na2CO3 instead of Ca(OH)2. A total of 1.49 g (8.2 mmol, 82% yield) of 4-hydroxyisophthalic acid was collected. The purity was determined by 1H NMR to be 88%.

reactant | 4-bromoisophthalic acid | 10.0 mmol, 2.45 g | BrC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H5BrO4
reactant | Na2CO3 | 25.5 mmol, 2.70 g | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-hydroxyisophthalic acid | 8.2 mmol, 1.49 g, 82% yield | OC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H6O5
